US05559113
2-{[2-(1H-Imidazol-4-yl)ethyl]amino}thiazole
1.1 g (10 mmol) of histamine base and 1.6 g (10 mmol) of 2-bromothiazole are brought to reflux in 15 ml of 2-propanol for 96 h. The reaction mixture is concentrated under reduced pressure until an oily residue is obtained which is chromatographed on a column of silica gel with a mixture of chloroform and methanol (1, 5 and 20%) as eluent to provide an oil. The latter is taken up in absolute ethanol and is treated with oxalic acid (2 molar equivalents). Addition of ether gives the title compound in the dioxalate form which, after having been crystallized from 2-propanol, melts at 198°-199° C.

reactant | histamine base | 10 mmol, 1.1 g | C1=C(NC=N1)CCN | C5H9N3
reactant | 2-bromothiazole | 10 mmol, 1.6 g | BrC=1SC=CN1 | C3H2BrNS
reactant | oxalic acid | 2 molar | C(C(=O)O)(=O)O | C2H2O4
reactant | ether | CCOCC | C4H10O
solvent | 2-propanol | 15 ml | CC(C)O | C3H8O
solvent | ethanol | C(C)O | C2H6O
product | 2-{[2-(1H-Imidazol-4-yl)ethyl]amino}thiazole | N1C=NC(=C1)CCNC=1SC=CN1 | C8H10N4S
